US07595327B2
According to the procedure of Example 15, Step 2, the reaction of 250.0 mg (0.5 mmol) of tert-butyl cis-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylate with iodomethane provided 238.0 mg of tert-butyl cis-2-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylate in 93% yield. MS: 511.2 (M+H)+

reactant | tert-butyl cis-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylate | 0.5 mmol, 250.0 mg | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CCC1)C(=O)OC(C)(C)C | C27H32N2O5S
reactant | iodomethane | IC | CH3I
product | tert-butyl cis-2-[methyl({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylate | 238.0 mg, 93% yield | CN([C@@H]1[C@@H](CCC1)C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C28H34N2O5S
